US09334290B2
A solution of ethyl 5-bromo-8-carbamoyl-6-methyl-9H-carbazole-2-carboxylate (0.500 g, 1.33 mmol) in THF (12 mL) at −78° C. was treated dropwise over 10 min with 1.6 M methyllithium in ether (2.50 mL, 4.00 mmol). The mixture was stirred at −78° C. for 30 min, then was treated with additional methyllithium solution (1.67 mL, 2.67 mmol). After 30 min more, additional methyllithium solution (1.67 mL, 2.67 mmol) was added and stirring was continued for 45 min. The mixture was then treated with saturated aqueous NH4Cl and allowed to warm to room temperature. The mixture was diluted with EtOAc and washed sequentially with water and brine. The aqueous layers were extracted with EtOAc, and the combined organic layers were dried and concentrated to provide an off-white solid. The solid was triturated and sonicated with MeOH and collected by filtration. The filtrate was purified by reverse-phase preparative HPLC. The appropriate fractions were treated with saturated aqueous NaHCO3 and concentrated. The residue was partitioned between EtOAc and water. The organic phase was washed with brine, and the aqueous layers were extracted with EtOAc. The combined organic layers were dried and concentrated, and the residue was combined with the first solid to give 4-bromo-7-(2-hydroxypropan-2-yl)-3-methyl-9H-carbazole-1-carboxamide as a tan solid (0.409 g, 85% yield). Mass spectrum m/z 343, 345 (M+H—H2O)+. 1H NMR (500 MHz, DMSO-d6) δ 11.42 (s, 1H), 8.56 (d, J=8.6 Hz, 1H), 8.12 (br. s., 1H), 7.91-7.89 (m, 2H), 7.48 (br. s., 1H), 7.36 (dd, J=8.3, 1.7 Hz, 1H), 5.06 (s, 1H), 2.53 (s, 3H), and 1.51 (s, 6H).

reactant | ethyl 5-bromo-8-carbamoyl-6-methyl-9H-carbazole-2-carboxylate | 1.33 mmol, 0.500 g | BrC1=C2C=3C=CC(=CC3NC2=C(C=C1C)C(N)=O)C(=O)OCC | C17H15BrN2O3
reactant | methyllithium | 1.6 M | C[Li]
reactant | ether | 4.00 mmol, 2.50 mL | CCOCC | C4H10O
reactant | methyllithium | 2.67 mmol, 1.67 mL | C[Li]
reactant | methyllithium | 2.67 mmol, 1.67 mL | C[Li]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-bromo-7-(2-hydroxypropan-2-yl)-3-methyl-9H-carbazole-1-carboxamide | 0.409 g, 85% yield | BrC1=C(C=C(C=2NC3=CC(=CC=C3C12)C(C)(C)O)C(=O)N)C | C17H17BrN2O2
